US07476684B2
(1R)-1-[5-(3-chlorophenyl)isoxazol-3-yl]ethanol
(1R)-1-[5-(3-chlorophenyl)isoxazol-3-yl]ethyl acetate (56 g, 211 mmol) and lithium hydroxide monohydrate (10.6 g, 253 mmol) were mixed with THF/Water (7/5, 1.2 L) and stirred at r.t. over night. Reducing the volume of the mixture in vacuo to about ½, followed by dilution with brine, extraction with ether and then drying over MgSO4 and in vacuo concentration gave crude product. The crude product was purified by flash column chromatography on silica using heptane/EtOAc=70:30, to give the title compound (40 g, 85%). 1H NMR: 7.73 (m, 1H), 7.63 (m, 1H), 7.38 (m, 2H), 6.57 (s, 1H), 5.07 (q, 1H), 2.44 (s, 1H), 1.59 (d, 3H).

reactant | (1R)-1-[5-(3-chlorophenyl)isoxazol-3-yl]ethyl acetate | 211 mmol, 56 g | C(C)(=O)O[C@H](C)C1=NOC(=C1)C1=CC(=CC=C1)Cl | C13H12ClNO3
reactant | lithium hydroxide monohydrate | 253 mmol, 10.6 g | O.[OH-].[Li+]
solvent | THF Water | 1.2 L | C1CCOC1.O
product | (1R)-1-[5-(3-chlorophenyl)isoxazol-3-yl]ethanol | 40 g, 85% | ClC=1C=C(C=CC1)C1=CC(=NO1)[C@@H](C)O | C11H10ClNO2
